US07309715B2
To a solution of 5-amino-2-methylbenzothiazole (818 mg, 4.99 mmol) in isopropanol (12 mL) was added N-chlorosuccinimide (732 mg, 5.48 mmol). The mixture was stirred at 60° C. for 15 min., partitioned between DCM and 5% sodium bicarbonate. The organic phase was washed with brine, dried over sodium sulphate and concentrated in vacuo to give a residue that was purified with flash chromatography (EtOAc/DCM gradient elution). 4-Chloro-2-methylbenzothiazol-5-ylamine was obtained as off-white crystalline solid (510 mg, 51%). mp 121-122° C. (lit. 124° C.); TLC single spot at Rf 0.51 (20% EtOAc/DCM); 1H NMR (270 MHz, DMSO): δ 7.61 (1H, d, J=8.6 Hz, ArH), 6.91 (1H, d, J=8.6 Hz, ArH), 5.49 (2H, s, NH2), 2.75 (3H, s, CH3); APCI-MS 199 (MH)+.

reactant | 5-amino-2-methylbenzothiazole | 4.99 mmol, 818 mg | NC=1C=CC2=C(N=C(S2)C)C1 | C8H8N2S
reactant | N-chlorosuccinimide | 5.48 mmol, 732 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | isopropanol | 12 mL | C(C)(C)O | C3H8O
product | 4-Chloro-2-methylbenzothiazol-5-ylamine | ClC1=C(C=CC2=C1N=C(S2)C)N | C8H7ClN2S
